US06939928B1
(2) Synthesis of (1,1,3-trimethylbutyl)cyclopentadiene
To a solution of 8.00 g (54.0 mmol) of 6-methyl-6-isobutylfulvene in 30 ml of ether, 54.0 ml (61.6 mmol) of an ether solution of methyllithium was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for 4 days. Then, 30 ml of water was added. The separated organic phase was washed with water and a saturated saline solution, then dried over magnesium sulfate and filtered. From the filtrate, the solvent was removed under reduced pressure to obtain a liquid. The liquid was subjected to vacuum distillation (120° C./25 mmHg) to obtain 7.10 g (43.2 mmol) of a light yellow liquid (yield: 80%)

reactant | 6-methyl-6-isobutylfulvene | 54.0 mmol, 8.00 g | CC(=C1C=CC=C1)CC(C)C | C11H16
reactant | methyllithium | C[Li]
reactant | water | 30 ml | O | H2O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 61.6 mmol, 54.0 ml | CCOCC | C4H10O
product | (1,1,3-trimethylbutyl)cyclopentadiene | 43.2 mmol, 7.10 g, yield: 80% | CC(CC(C)C)(C)C1=CC=CC1 | C12H20
